US09315458B2
E) methyl 5-bromo-3-chloro-2-hydroxy-4-methoxybenzoate
To a solution of 5-bromo-3-chloro-2-hydroxy-4-methoxybenzoic acid (10.4 g) in dichloromethane (150 mL) were added a solution of oxalyl chloride (7.05 g) in dichloromethane (10 mL) and DMF (3 drops) under ice-cooling, and the mixture was stirred at 13° C. for 1 hr. The solvent was evaporated under reduced pressure, and the residue was dissolved in THF (50 mL). This solution was added dropwise to a solution of triethylamine (1.20 g) in methanol (150 mL) under ice-cooling, and the mixture was stirred at 13° C. for 16 hr. The solvent was evaporated under reduced pressure from the reaction mixture, and the residue was diluted with ethyl acetate and water. 1N Hydrochloric acid was added thereto, and the mixture was partitioned. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (10.9 g).

reactant | 5-bromo-3-chloro-2-hydroxy-4-methoxybenzoic acid | 10.4 g | BrC=1C(=C(C(=C(C(=O)O)C1)O)Cl)OC | C8H6BrClO4
reactant | oxalyl chloride | 7.05 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | methyl 5-bromo-3-chloro-2-hydroxy-4-methoxybenzoate | 10.9 g | BrC=1C(=C(C(=C(C(=O)OC)C1)O)Cl)OC | C9H8BrClO4
